US06627644B2
To a solution of (1-methanesulfonyl-piperidin-4-ylmethyl)-(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine (490 mg, 1.20 mmol) in ethanol (30 mL) was added 10% palladium on charcoal (50 mg). The solution was shaken on a Parr shaker for 24 h at 55 psi of H2. The solution was filtered through Celite® and concentrated to afford N-(1-methanesulfonyl-piperidin-4-ylmethyl)-N-propyl-1,2,3,4-tetrahydro-naphthalene-2,7-diamine (400 mg) 85, [M+H]+=380, which was used directly in the next step.

reactant | (1-methanesulfonyl-piperidin-4-ylmethyl)-(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine | 1.20 mmol, 490 mg | CS(=O)(=O)N1CCC(CC1)CN(CCC)C1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C20H31N3O4S
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | N-(1-methanesulfonyl-piperidin-4-ylmethyl)-N-propyl-1,2,3,4-tetrahydro-naphthalene-2,7-diamine | 400 mg | CS(=O)(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)N)CCC | C20H33N3O2S
